US07067658B2
A solution of 1-chloro-4,5-difluoro-2-nitro-benzene (Preparation 1) (20.0 g, 103.3 mmol), K2CO3 (31.4 g, 227.3 mmol) and dimethyl amine. HCl (9.3 g, 113.6 mmol) in acetonitrile (200 mL) was heated to reflux for 2 h. The solution cooled to room temperature, quenched with water and extracted with ethyl acetate. The ethyl acetate layers were washed with brine, dried (Na2SO4), filtered and concentrated in vacuo to give 22.1 g (98%) of 1-chloro-5-dimethylamino-4-fluoro-2-nitro-benzene: Crude 1H NMR (400 MHz, CDCl3): δ 7.83 (d, J=14.2 Hz, 1H), 6.72 (d, J=8.3 Hz, 1H), 3.09 (d, J=2.2 Hz, 6H), 3.77 (br s, 2H). The crude material was pure enough to carry on to the next step.

reactant | 1-chloro-4,5-difluoro-2-nitro-benzene | 103.3 mmol, 20.0 g | ClC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2ClF2NO2
reactant | K2CO3 | 227.3 mmol, 31.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetonitrile | 200 mL | C(C)#N | C2H3N
product | 1-chloro-5-dimethylamino-4-fluoro-2-nitro-benzene | 22.1 g, 98% | ClC1=C(C=C(C(=C1)N(C)C)F)[N+](=O)[O-] | C8H8ClFN2O2
